US04789680
First a solution of 17.4 g (0.1 mol) of azodicarboxylic acid diethyl ester in 50 ml of toluene is added dropwise at 10°-20° to a solution of 26.2 g (0.1 mol) of triphenylphosphine in 260 ml of toluene and then, at 5°-10°, a solution of 17.6 g (0.1 mol) of o-trifluoromethylbenzyl alcohol in 120 ml of a 1N solution of hydrazoic acid in toluene is added dropwise thereto and the whole is stirred at room temperature for 2 hours. The precipitated hydrazinodicarboxylic acid ester is filtered off with suction, the toluene solution is concentrated by evaporation and the residue is treated with cyclohexane. The cyclohexane solution is decanted off from the insoluble portions, filtered through a small amount of silica gel and concentrated by evaporation at 50° in vacuo. In this manner o-trifluoromethylbenzyl azide is obtained in the form of a colourless liquid.

reactant | azodicarboxylic acid diethyl ester | 0.1 mol, 17.4 g | C(C)OC(=O)N=NC(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 0.1 mol, 26.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | o-trifluoromethylbenzyl alcohol | 0.1 mol, 17.6 g | FC(C1=C(CO)C=CC=C1)(F)F | C8H7F3O
reactant | hydrazoic acid | N=[N+]=[N-] | HN3
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 260 ml | C1(=CC=CC=C1)C | C7H8
product | o-trifluoromethylbenzyl azide | FC(C1=C(CN=[N+]=[N-])C=CC=C1)(F)F | C8H6F3N3
